US04877852
(Production of 2,5-di(2-thienyl)thiazole:
When a three-neck 50-ml flask fitted with a reflux condenser, a stirrer, and a calcium chloride tube was charged with 6.45 g (40 m.mols) of 2-bromothiophene and 29 ml of dehydrated ether and then 1.06 g (44 m.mols) of a magnesium metal was added thereto, the resultant reaction mixture produced 2-thienyl magnesium bromide with evolution of heat. Under an atmosphere of nitrogen, 4.0 g (16 m.mols) of 2,5-dibromothiazole, 0.179 g (0.33 m.mol) of dichloro[1,3-bis(diphenylphosphino)propane]nickel, and 29 ml of dehydrated ether were added to the 2-thienyl magnesium bromide. The resultant mixture was placed and refluxed for 16 hours in a three-necked 100-ml flask fitted with a reflux condenser, a stirrer, and a calcium chloride tube. The reaction mixture was treated with 1N hydrochloric acid and the water layer separated from the organic layer was extracted with ether. The organic layer was added to the water layer extracted with ether. The resultant liquid was washed with water, cleaned with a saturated aqueous sodium hydrogen carbonate solution, and then washed again with water. The washed liquid layer was dried with anhydrous sodium sulfate, treated with activated carbon, and recrystallized twice with n-hexane, to produce 237 mg (5.8%) of yellow leaflike crystals of 2,5-di(2-thienyl)thiazole having a melting point of 93.0° to 93.8° C.

reactant | 2,5-dibromothiazole | 4.0 g | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | 2-thienyl magnesium bromide | S1C(=CC=C1)[Mg]Br
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | dichloro[1,3-bis(diphenylphosphino)propane]nickel | 0.179 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ether | 29 ml | CCOCC | C4H10O
product | 2,5-di(2-thienyl)thiazole | 237 mg, 5.8% | S1C(=CC=C1)C=1SC(=CN1)C=1SC=CC1 | C11H7NS3
